US07560546B2
Step A: Ethyl 5,6-dibromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate
Ethyl 5-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate (108 mg, 0.26 mmol, 1.0 equiv) and sodium acetate (64 mg, 0.78 mmol, 3.0 equiv) were dissolved in 2 mL of acetic acid. A 1 mL solution of Br2 (41 mg, 0.26 mmol, 1.0 equiv) in acetic acid was added dropwise to the mixture and was stirred for 3 hours at ambient temperature, after which the vessel was heated at 50° C. for 18 hours. An additional 1 mL solution of Br2 (41 mg, 0.26 mmol, 1.0 equiv) in acetic acid was added dropwise to the mixture and stirred at 50° C. for 90 minutes. An additional 1 mL solution of Br2 (82 mg, 0.52 mmol, 2.0 equiv) was added and the vessel was heated for 30 more minutes. The reaction mixture was partitioned between ethyl acetate and aqueous saturated NaHCO3, which was extracted three times with ethyl acetate. The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate/hexanes) provided the titled compound. Proton NMR for the product was consistent with the titled compound. ESI+MS: 496.9 [M+H]+.

reactant | Ethyl 5-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | 0.26 mmol, 108 mg, 1.0 equiv | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C15H17BrN2O5S
reactant | sodium acetate | 0.78 mmol, 64 mg, 3.0 equiv | C(C)(=O)[O-].[Na+]
reactant | Br2 | 0.26 mmol, 41 mg, 1.0 equiv | BrBr | Br2
reactant | Br2 | 0.26 mmol, 41 mg, 1.0 equiv | BrBr | Br2
reactant | Br2 | 0.52 mmol, 82 mg, 2.0 equiv | BrBr | Br2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | Ethyl 5,6-dibromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(NC2=CC1Br)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C15H16Br2N2O5S
